US07138533B2
5-Chloro-1-(3,4-dihydro-2H-chromen-6-yl)pentane-1-one
Using chroman (5.40 g) and 5-chlorovaleryl chloride (6.82 g) according to the same method as that of Reference Example 1, the title compound was obtained as a fine yellow oil (7.9, g).

reactant | chroman | 5.40 g | O1CCCC2=CC=CC=C12 | C9H10O
reactant | 5-chlorovaleryl chloride | 6.82 g | ClCCCCC(=O)Cl | C5H8Cl2O
product | 5-Chloro-1-(3,4-dihydro-2H-chromen-6-yl)pentane-1-one | ClCCCCC(=O)C=1C=C2CCCOC2=CC1 | C14H17ClO2
